### PR TITLE
[Merged by Bors] - feat(NumberTheory/Primorial): a few simple facts

### PR DESCRIPTION
**Pull request by thefundamentaltheor3m**
We prove
- the primorial is squarefree
- the prime factors of the primorial are precisely `primesLE`

We also add that it is non-zero (mere convenience API).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/Primorial.lean [hunk 1]
```diff
@@ -43,6 +43,10 @@ local notation x "#" => primorial x
 
 lemma primorial_eq_prod_primesLE (n : ℕ) : n # = ∏ p ∈ primesLE n, p := rfl
 
+lemma primorial_primeFactors (n : ℕ) : primeFactors (n#) = primesLE n := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Primorial.lean]:
```suggestion
lemma primeFactors_primorial (n : ℕ) : primeFactors (n#) = primesLE n := by
```

File: Mathlib/NumberTheory/Primorial.lean [hunk 2]
```diff
@@ -52,6 +56,8 @@ lemma primorial_eq_prod_primesLE (n : ℕ) : n # = ∏ p ∈ primesLE n, p := rf
 theorem primorial_pos (n : ℕ) : 0 < n# :=
   prod_pos fun _p hp ↦ (mem_filter.1 hp).2.pos
 
+lemma primorial_ne_zero (n : ℕ) : n# ≠ 0 := _root_.ne_of_gt <| primorial_pos n
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Primorial.lean]: (Observation: The `_root_` is kinda ugly, particularly since we have a naming conflict for two lemmas _that both do exactly the same thing_; but `Nat.ne_of_gt` is in core, not Mathlib, so there is no easy fix.)

File: Mathlib/NumberTheory/Primorial.lean [hunk 3]
```diff
@@ -139,3 +145,11 @@ theorem primorial_le_four_pow (n : ℕ) : n# ≤ 4 ^ n := by
   · exact (primorial_lt_four_pow n hn).le
 
 @[deprecated (since := "2026-03-21")] alias primorial_le_4_pow := primorial_le_four_pow
+
+lemma primorial_squarefree (n : ℕ) : Squarefree (n#) := by
+  rw [primorial_eq_prod_primesLE]
+  refine Finset.squarefree_prod_of_pairwise_isCoprime ?_ <|
+    fun _ hp => (prime_of_mem_primesLE hp).squarefree
+  intro _ hp _ hq hpq
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Primorial.lean]:
```suggestion
  refine Finset.squarefree_prod_of_pairwise_isCoprime (fun _ hp _ hq hpq ↦ ?_) 
    fun _ hp ↦ (prime_of_mem_primesLE hp).squarefree
```

File: Mathlib/NumberTheory/Primorial.lean [hunk 4]
```diff
@@ -139,3 +145,11 @@ theorem primorial_le_four_pow (n : ℕ) : n# ≤ 4 ^ n := by
   · exact (primorial_lt_four_pow n hn).le
 
 @[deprecated (since := "2026-03-21")] alias primorial_le_4_pow := primorial_le_four_pow
+
+lemma primorial_squarefree (n : ℕ) : Squarefree (n#) := by
```
Comment (loefflerd) [inline Mathlib/NumberTheory/Primorial.lean]:
```suggestion
lemma squarefree_primorial (n : ℕ) : Squarefree (n#) := by
```
(to match the order of terms in the conclusion)

**Review by loefflerd — COMMENTED** [review]
LGTM, just some minor naming issues + golfs

maintainer delegate

File: Mathlib/NumberTheory/Primorial.lean (hunk 2 above)
Comment (b-mehta) [inline Mathlib/NumberTheory/Primorial.lean]:
```suggestion
lemma primorial_ne_zero (n : ℕ) : n# ≠ 0 := (primorial_pos n).ne'
```
I agree with David that it's unfortunate we need the `_root_`, but there's a simple work-around in this case.

Comment (thefundamentaltheor3m) [reply Mathlib/NumberTheory/Primorial.lean]: Yeah I found that rather annoying as well...

**Comment by ocfnash** [comment]
bors merge
